US07732440B2
Analogously to Example 36 and Example 44, tert-butyl 2-ethoxycarbonylmethyl-5,5-dioxo-5H-phenothiazine-10-carboxylate, 1,1-difluoro-4-iodomethylcyclohexane (prepared from commercially available ethyl 4,4-difluorocyclohexanecarboxylate analogously to the synthesis of the iodide described in Example 40) and 1-methyl-1H-pyrazol-3-amine give 3-(4,4-difluorocyclohexyl)-2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)propionamide.

reactant | tert-butyl 2-ethoxycarbonylmethyl-5,5-dioxo-5H-phenothiazine-10-carboxylate | C(C)OC(=O)CC1=CC=2N(C3=CC=CC=C3S(C2C=C1)(=O)=O)C(=O)OC(C)(C)C | C21H23NO6S
reactant | 1,1-difluoro-4-iodomethylcyclohexane | FC1(CCC(CC1)CI)F | C7H11F2I
reactant | ethyl 4,4-difluorocyclohexanecarboxylate | FC1(CCC(CC1)C(=O)OCC)F | C9H14F2O2
reactant | iodide | [I-]
reactant | 1-methyl-1H-pyrazol-3-amine | CN1N=C(C=C1)N | C4H7N3
product | 3-(4,4-difluorocyclohexyl)-2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)propionamide | FC1(CCC(CC1)CC(C(=O)NC1=NN(C=C1)C)C1=CC=2NC3=CC=CC=C3S(C2C=C1)(=O)=O)F | C25H26F2N4O3S
